Q1.include TSMC_180nm.txt

.param LAMBDA = 0.18u

.param wn1 = {10*LAMBDA}
.param wn2 = {10*LAMBDA}
.param ln1 = {2*LAMBDA}
.param ln2 = {2*LAMBDA}

.param wp1 = wn1
.param wp2 = wn1
.param lp1 = {LAMBDA}
.param lp2 = {LAMBDA}

.SUBCKT and1 2 4 6

vdd 1 0 dc 2

mn1 3 2 5 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn2 5 4 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn3 6 3 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

mp1 3 2 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp2 3 4 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp3 6 3 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

.ends

.SUBCKT and_4_inp 2 4 6 8 10

vdd 1 0 dc 2

mn1 3 2 5 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn2 5 4 7 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn3 7 6 9 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn4 9 8 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn5 10 3 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

mp1 3 2 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp2 3 4 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp3 3 6 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp4 3 8 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp5 10 3 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

.ends

.SUBCKT and_3_inp 2 4 6 10

vdd 1 0 dc 2

mn1 3 2 5 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn2 5 4 7 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn3 7 6 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn4 10 3 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

mp1 3 2 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp2 3 4 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp3 3 6 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp4 10 3 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

.ends

.SUBCKT or_4_inp 2 4 6 8 10

vdd 1 0 dc 2

mn1 3 2 5 1 CMOSP  W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn2 5 4 7 1 CMOSP W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn3 7 6 9 1 CMOSP W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn4 9 8 1 1 CMOSP W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn5 10 3 1 1 CMOSP W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

mp1 3 2 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mp2 3 4 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mp3 3 6 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mp4 3 8 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mp5 10 3 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

.ends

.SUBCKT or1 2 4 6

vdd 1 0 dc 2

mn1 3 2 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn2 3 4 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
mn3 6 3 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

mp1 3 4 5 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp2 5 2 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
mp3 6 3 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

.ends

.SUBCKT not 2 3

vdd 1 0 dc 2

Mpa 3 2 1 1 CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
Mna 3 2 0 0 CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

.ends

.SUBCKT xor1 2 4 9

X1 2 5 not
X2 4 6 not
X3 5 4 7 and1
X4 6 2 8 and1
X5 7 8 9 or1

.ends

.SUBCKT adder_subtractor 2 4 3 5 9 11

X0 4 5 12 xor1
X1 2 12 7 xor1
X2 2 12 8 and1
X3 7 3 9 xor1
X4 7 3 10 and1
X5 10 8 11 or1

.ends

.SUBCKT comparator 2 4 6 9 10

X1 2 4 5 xor1
X2 5 6 not
X3 2 7 not
X4 4 8 not
X5 2 8 9 and1
X6 4 7 10 and1

.ends

.SUBCKT mux 5 6 13 14 15 16 

X1 5 11 not
X2 6 12 not
X3 11 12 13 and1
X4 11 6 14 and1
X5 5 12 15 and1
X6 5 6 16 and1

.ends

.SUBCKT input_enable 20 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17

X1 2 20 10 and1
X2 3 20 11 and1
X3 4 20 12 and1
X4 5 20 13 and1
X5 6 20 14 and1
X6 7 20 15 and1
X7 8 20 16 and1
X8 9 20 17 and1

.ends

vdd 1 0 dc 2

vs1 2 0 dc 0
vs0 3 0 dc 2
va0 4 0 dc 2
va1 5 0 dc 0 
va2 6 0 dc 0
va3 7 0 dc 2
vb0 8 0 dc 0
vb1 9 0 dc 0
vb2 10 0 dc 2
vb3 11 0 dc 2

X27 2 93 not
X28 3 94 not
X1 2 3 12 13 14 15 mux

X3 93 4 5 6 7 8 9 10 11 25 26 27 28 29 30 31 32 input_enable
X4 14 4 5 6 7 8 9 10 11 33 34 35 36 37 38 39 40 input_enable
X5 15 4 5 6 7 8 9 10 11 41 42 43 44 45 46 47 48 input_enable

X6 25 29 13 13 49 53 adder_subtractor
X7 26 30 53 13 50 54 adder_subtractor
X8 27 31 54 13 51 55 adder_subtractor
X9 28 32 55 13 52 56 adder_subtractor

X10 33 37 57 61 65 comparator
X11 34 38 58 62 66 comparator
X12 35 39 59 63 67 comparator
X13 36 40 60 64 68 comparator

X14 57 58 59 60 90 and_4_inp
X29 90 94 2 95 and_3_inp

X15 60 63 69 and1
X16 60 59 62 70 and_3_inp
X17 60 59 58 61 71 and_4_inp
X18 64 69 70 71 72 or_4_inp

X19 60 67 73 and1
X20 60 59 66 74 and_3_inp
X21 60 59 58 65 75 and_4_inp
X22 68 73 74 75 76 or_4_inp

X23 41 45 77 and1 
X24 42 46 78 and1
X25 43 47 79 and1
X26 44 48 80 and1

.tran 0.1u 400u

.control
run

.print 

*plot V(4) V(8)+2.2 V(49)+4.4
*plot V(5) V(9)+2.2 V(50)+4.4
*plot V(6) V(10)+2.2 V(51)+4.4
*plot V(8) V(11)+2.2 V(52)+4.4
*plot V(56)

plot V(49) V(50)
plot V(51) V(52)
plot V(53) V(54)
plot V(55) V(56)

*plot V(4) V(8)+2.2
*plot V(5) V(9)+2.2
*plot V(6) V(10)+2.2
*plot V(7) V(11)+2.2
*plot V(95) V(72)+2.2 V(76)+4.4

*plot V(77) V(4)+2.2 V(8) +4.4
*plot V(78) V(5)+2.2 V(9)+4.4
*plot V(79) V(6)+2.2 V(10)+4.4
*plot V(80) V(7)+2.2 V(11)+4.4

.endc
.end

